US07572808B2
D. Preparation of 3-bromo-4-(4-chlorophenyl)-2-hydrazinyl-6-methylpyridine
To a suspension of 3-bromo-2-chloro-4-(4-chlorophenyl)-6-methylpyridine (0.18 g, 0.56 mmol) in dioxane (4 mL) at room temperature was added anhydrous hydrazine (0.4 mL). The resulting mixture was stirred at 65° C. for 1 h. Analysis by HPLC/MS indicated the reaction was not complete. Additional anhydrous hydrazine (0.3 mL) was added, and the reaction mixture was stirred at 65° C. for 4 h more. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. To the residue was added water, and the resulting suspension was sonicated for 5 min. The resulting slurry was filtered, and the collected solid was washed with water (10 mL×2), then dried in a 45° C. vacuum oven for 16 h to afford 160 mg (90%) of the title compound as a white solid. HPLC/MS: retention time=2.53 min, [M+H]+=312.1.

reactant | 3-bromo-2-chloro-4-(4-chlorophenyl)-6-methylpyridine | 0.56 mmol, 0.18 g | BrC=1C(=NC(=CC1C1=CC=C(C=C1)Cl)C)Cl | C12H8BrCl2N
reactant | hydrazine | 0.4 mL | NN | H4N2
reactant | hydrazine | 0.3 mL | NN | H4N2
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 3-bromo-4-(4-chlorophenyl)-2-hydrazinyl-6-methylpyridine | 160 mg, 90% | BrC=1C(=NC(=CC1C1=CC=C(C=C1)Cl)C)NN | C12H11BrClN3
